US07153878B2
To a solution of 4-trifluoromethyl benzoic acid (0.100 g, 0.239 mmole) in methanol (2.0 mL), is added sodium hydroxide (0.093 g, 0.287 mmole) and stirred at room temperature for 2 hours. The mixture is concentrated to dryness in vacuo to give sodium 4-trifluoromethyl-benzoate as a white solid. It is then mixed with NH4OAc (8.329, 107.9 mmole) in glacial acetic acid (500 mL) and heated at 100° C. for 16 hours. After removed the solvents on rota-vapor, the residue is partitioned between ethyl acetate (300 mL) and saturated sodium bicarbonate (300 mL). Extracted the aqueous layer with ethyl acetate (300 mL) one more time. The combined organic is ish with brine (3×500 mL), dried over Na2SO4, filtered and concentrated. The crude product is purified by chromatography on silica gel column, gradient elute with 0 to 10% ethyl acetate in hexane and concentrated to provide the titled compound as a white solid. Mass [EI+] 300 (M++H).

reactant | 4-trifluoromethyl benzoic acid | 0.239 mmole, 0.100 g | FC(C1=CC=C(C(=O)O)C=C1)(F)F | C8H5F3O2
reactant | sodium hydroxide | 0.287 mmole, 0.093 g | [OH-].[Na+]
solvent | methanol | 2.0 mL | CO | CH4O
product | sodium 4-trifluoromethyl-benzoate | FC(C1=CC=C(C(=O)[O-])C=C1)(F)F.[Na+] | InChI=1S/C8H5F3O2.Na/c9-8(10,11)6-3-1-5(2-4-6)7(12)13;/h1-4H,(H,12,13);/q;+1/p-1
